US06271238B1
(5) (5-Acetylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine-1-yl) acetic acid
2-Methyl-2-butene (1.38 ml, 12.98 mmol), an aqueous solution (4.2 ml) of sodium dihydrogen phosphate.1H2O (419 mg, 2.95 mmol) and an aqueous solution (9.3 ml) of sodium chlorite (934 mg, 10.32 mmol) were added to a solution of (5-acetylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine-1-yl)acetaldehyde(800mg,2.95 mmol) in2-methyl-2-propanol (14.8 ml), and the mixture was stirred overnight at room temperature. The reaction solution was washed with diethyl ether, and then the aqueous layer was adjusted to pH, 4 with citric acid and extracted 6 times with methylene chloride. After dried over anhydrous sodium sulfate, the organic layer was concentrated under reduced pressure whereby 5-acetylamino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidyl acetic acid (537 mg, 63%) was obtained as white solid.

reactant | 2-Methyl-2-butene | 12.98 mmol, 1.38 ml | CC(C)=CC | C5H10
reactant | sodium dihydrogen phosphate | 4.2 ml | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 10.32 mmol, 9.3 ml, 934 mg | Cl(=O)[O-].[Na+]
reactant | (5-acetylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine-1-yl)acetaldehyde | 2.95 mmol, 14.8 ml, 800mg | C(C)(=O)NC1=CN=C(N(C1=O)CC=O)C1=CC=CC=C1 | C14H13N3O3
product | (5-Acetylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine-1-yl) acetic acid | C(C)(=O)NC1=CN=C(N(C1=O)CC(=O)O)C1=CC=CC=C1 | C14H13N3O4
